US06054260
Preparation of Ethyl N-methyl-N-(4-nitrosophenyl)glycinate.
A solution of 15.5 g (80 mmol) of ethyl N-methyl-N-phenylglycinate in 80 g of ice and 40 mL of conc.HCl was stirred at 0-5° while a solution of 6 g (87 mmol) of NaNO2 in 40 mL of water was added dropwise over 30 min. After stirring at this temp. for 1 hr, a solution of 27 g (250 mmol) of Na2CO3 in 150 mL of water was added dropwise with cooling. The green solid was collected, washed with cold water, extracted into CH2Cl2, passed thorugh silica with CH2Cl2 to remove an impurity, and the product eluded with 10% ethyl acetate/CH2Cl2 to give 14.7 g (66 mmol, 83%) mp 55-56° after washing with 10% ethyl acetate/hexane. Anal. C11H14N2O3 (222): Calcd.: C,59.45; H,6,35; N,12.60. Found: C,59.46; H,6.14; N,12.49. MS(FD) m/z 222. 1H NMR(CDCl3)δ: 7.8,broad s,2H,ArH; 6.69,d,2H,ArH; 4.22,q,2H,CH2 --O; 4.20,s,2H,CH2 --N; 3.23,s,3H,CH3 --N; 1.27,t,3H,CH3 --C.

reactant | ethyl N-methyl-N-phenylglycinate | 80 mmol, 15.5 g | CN(CC(=O)OCC)C1=CC=CC=C1 | C11H15NO2
reactant | HCl | Cl | ClH
reactant | NaNO2 | 87 mmol, 6 g | N(=O)[O-].[Na+]
reactant | Na2CO3 | 250 mmol, 27 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | water | 40 mL | O | H2O
solvent | water | 150 mL | O | H2O
product | Ethyl N-methyl-N-(4-nitrosophenyl)glycinate | CN(CC(=O)OCC)C1=CC=C(C=C1)N=O | C11H14N2O3
